US07781438B2
Preparation of 3-Chloro-8-formyl-naphthalene-2-carboxylic acid ethyl ester
NaH2PO2 x H2O (2.12 g, 20.02 mmol, 8.0 equiv) and Raney nickel (1.50 g) were added at room temperature to a solution of 3-chloro-8-cyano-naphthalene-2-carboxylic acid ethyl ester (0.65 g, 2.50 mmol) in pyridine (16 ml)/AcOH (8 ml)/H2O (8 ml). The heterogeneous mixture was heated to 125° C. for 2 hours. After cooling and filtering off the Raney nickel catalyst, the reaction mixture was diluted with water (100 ml). After extraction with EtOAc (2×400 ml), the combined organic layers were washed with brine (2×50 ml), dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified via flash chromatography (gradient of hexane/EtOAc 100:0 to 90:10) to afford the title compound (350 mg, 53%, inseparable 1:1.5 mixture of regioisomers A:B) as a white solid. 1H NMR (400 MHz, CDCl3): δ=10.35 (s, 1H isomer B), 10.33 (s, 1H isomer A), 9.70 (s, 1H isomer B), 9.41 (s, 1H isomer A), 8.39 (s, 1H isomer A), 8.14 (d, J=8.4 Hz, 1H isomer A). 8.08 (dd, J=7.1/1.2 Hz, 1H isomer B), 8.04-8.01 (m, 1H isomer A+1H isomer B), 7.99 (1H isomer B), 7.77-7.70 (m, 1H isomer A+1H isomer B), 4.48 (q, J=7.1 Hz, 2H isomer B), 4.47 (q, J=7.1 Hz, 2H isomer A), 1.46 (t, J=7.1 Hz, 3H isomer B), 1.45 (t, J=7.1 Hz, 3H isomer A). MS (ES+): 263 (M+H)+.

reactant | 3-chloro-8-cyano-naphthalene-2-carboxylic acid ethyl ester | 2.50 mmol, 0.65 g | C(C)OC(=O)C1=CC2=C(C=CC=C2C=C1Cl)C#N | C14H10ClNO2
reactant | AcOH | 8 ml | CC(=O)O | C2H4O2
reactant | H2O | 8 ml | O | H2O
catalyst | Raney nickel | 1.50 g | [Ni] | Ni
solvent | pyridine | 16 ml | N1=CC=CC=C1 | C5H5N
product | 3-Chloro-8-formyl-naphthalene-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(C=CC=C2C=C1Cl)C=O | C14H11ClO3
